US06747023B1
4-Amidinobenzoic acid
In 1N hydrochloric acid (100 ml), the resulting ethyl 4-amidinobenzoate hydrochloride (3.00 g) was dissolved at room temperature, followed by heating under reflux for 2 hours. The solvent was then distilled off under reduced pressure. Colorless crystalline powder so precipitated was collected by filtration and washed with a small amount of tetrahydrofuran, whereby the title compound (2.69 g, 94%) was obtained.

reactant | ethyl 4-amidinobenzoate hydrochloride | 3.00 g | Cl.C(N)(=N)C1=CC=C(C(=O)OCC)C=C1
solvent | hydrochloric acid | 1N, 100 ml | Cl | ClH
product | 4-Amidinobenzoic acid | C(N)(=N)C1=CC=C(C(=O)O)C=C1 | C8H8N2O2
